US04703049
A mixture of 1.70 g of 6-ethyl-N-hydroxy-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carboxamidine and 3.5 ml of dimethylacetamide dimethyl acetal was heated at 100° C. for 15 minutes and the resulting mixture was evaporated to dryness and purified by flash chromatography. The resulting solid was crystallized from aqueous methanol to give 1.76 g of 6-ethyl-7-methoxy-5-methyl-2-(5-methyl-1,2,4-oxadiazol-3-yl)imidazol[1,2-a]pyrimidine (95% yield) as a white crystalline solid melting at 176°-177° C.

reactant | 6-ethyl-N-hydroxy-7-methoxy-5-methylimidazo[1,2-a]pyrimidine-2-carboxamidine | 1.70 g | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(=N)NO)OC | C11H15N5O2
reactant | dimethylacetamide dimethyl acetal | 3.5 ml | COC(C)(N(C)C)OC | C6H15NO2
product | 6-ethyl-7-methoxy-5-methyl-2-(5-methyl-1,2,4-oxadiazol-3-yl)imidazol[1,2-a]pyrimidine | 1.76 g, 95% yield | C(C)C=1C(=NC=2N(C1C)C=C(N2)C2=NOC(=N2)C)OC | C13H15N5O2
